### PR TITLE
feat(Combinatorics/SimpleGraph/LapMatrix): bound Laplacian eigenvalues by `|V|`

### PR DESCRIPTION
**Pull request by hasjack**
Prove that every Laplacian eigenvalue of a finite simple graph is at most
the number of vertices, via comparison of the Rayleigh quotient with the
complete graph. Also record the underlying quadratic-form bound
`xᵀ L x ≤ |V| · ‖x‖²`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)
Adds `dotProduct_mulVec_lapMatrix_le_card` and `eigenvalues_lapMatrix_le_card`
in `LapMatrix.lean` only. The claim is the uniform bound `λ ≤ |V|` for every
indexed eigenvalue; it does not assert `|V| ∈ spectrum` for every graph.
Searched existing LapMatrix API (PSD, `zero_mem_spectrum_lapMatrix`,
`lapMatrix_top`) and did not find a card upper bound under another name.
Happy to rename if a preferred lemma already exists.

### CODE REVIEW

**Comment by SnirBroshi** [comment]
Welcome!
Could you try generalizing beyond `Real`s? What assumptions of the real numbers are you using?
Also could you please comment on if and how you're using LLMs for this PR?

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 1]
```diff
@@ -279,6 +280,74 @@ noncomputable def lapMatrix_ker_basis :=
...
+/-- The quadratic form of a simple-graph Laplacian is at most `|V| · ‖x‖²`.
+
+The comparison is with the complete graph: adjacency of `G` is a subset of pairs `i ≠ j`, so
+`xᵀ L(G) x ≤ xᵀ L(K_V) x`. From `lapMatrix_top`, `L(K_V) = |V| - J` where `J` is the all-ones
+matrix, and the corresponding quadratic form is `|V| ‖x‖² - (∑ x)² ≤ |V| ‖x‖²`. -/
+theorem dotProduct_mulVec_lapMatrix_le_card (x : V → ℝ) :
+    x ⬝ᵥ (G.lapMatrix ℝ *ᵥ x) ≤ (Fintype.card V : ℝ) * (x ⬝ᵥ x) := by
+  classical
+  have hcmp : toLinearMap₂' ℝ (G.lapMatrix ℝ) x x ≤
+      toLinearMap₂' ℝ ((⊤ : SimpleGraph V).lapMatrix ℝ) x x := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]: Could you extract this to a lemma, generalized to any `G ≤ H`?

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 2]
```diff
@@ -279,6 +280,74 @@ noncomputable def lapMatrix_ker_basis :=
...
+    _ ≤ (Fintype.card V : ℝ) * (x ⬝ᵥ x) := htop
+
+/-- A real eigenpair of the Laplacian satisfies `μ ≤ |V|`.
+
+This is the Rayleigh-quotient form of `dotProduct_mulVec_lapMatrix_le_card`.
+It is a uniform upper bound; it does not assert that `|V|` lies in the spectrum.
+
+We state the bound via an explicit eigenpair (equivalently `HasEigenvalue` of `toLin'`)
+rather than `IsHermitian.eigenvalues`, to avoid importing `Analysis.Matrix.Spectrum`. -/
+theorem eigenvalue_lapMatrix_le_card {μ : ℝ} {x : V → ℝ} (hx : x ≠ 0)
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]: This is the same lemma as the `HasEigenvalue` one but with a different spelling, right? Is there a benefit to this spelling? (for example if the result generalizes beyond commutative rings)
If not, could you merge the two and use the `HasEignevalue` spelling?

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 3]
```diff
@@ -279,6 +283,83 @@ noncomputable def lapMatrix_ker_basis :=
...
 
+/-- The Laplacian quadratic form is monotone in the graph: if `G ≤ H`, then
+`xᵀ L(G) x ≤ xᵀ L(H) x`.
+
+This holds over any linearly ordered field (same assumptions as `posSemidef_lapMatrix`,
+minus the star data): the quadratic forms expand as a sum of squares over edges, so
+adding edges can only increase the value. -/
+theorem lapMatrix_toLinearMap₂'_mono [Field R] [LinearOrder R] [IsStrictOrderedRing R]
+    {G H : SimpleGraph V} [DecidableRel G.Adj] [DecidableRel H.Adj]
+    (hGH : G ≤ H) (x : V → R) :
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]:
```suggestion
    {G H : SimpleGraph V} [DecidableRel G.Adj] [DecidableRel H.Adj] (hGH : G ≤ H) (x : V → R) :
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 4]
```diff
@@ -279,6 +283,83 @@ noncomputable def lapMatrix_ker_basis :=
...
+    toLinearMap₂' R (G.lapMatrix R) x x ≤ toLinearMap₂' R (H.lapMatrix R) x x := by
+  rw [lapMatrix_toLinearMap₂' R G x, lapMatrix_toLinearMap₂' R H x]
+  refine div_le_div_of_nonneg_right ?_ (by norm_num : (0 : R) ≤ 2)
+  refine sum_le_sum fun i _ => sum_le_sum fun j _ => ?_
+  by_cases hG : G.Adj i j
+  · have hH : H.Adj i j := hGH hG
+    simp [hG, hH]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]:
```suggestion
  · simp [hG, hGH hG]
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 5]
```diff
@@ -279,6 +283,83 @@ noncomputable def lapMatrix_ker_basis :=
...
+
+This holds over any linearly ordered field (same assumptions as `posSemidef_lapMatrix`,
+minus the star data): the quadratic forms expand as a sum of squares over edges, so
+adding edges can only increase the value. -/
+theorem lapMatrix_toLinearMap₂'_mono [Field R] [LinearOrder R] [IsStrictOrderedRing R]
+    {G H : SimpleGraph V} [DecidableRel G.Adj] [DecidableRel H.Adj]
+    (hGH : G ≤ H) (x : V → R) :
+    toLinearMap₂' R (G.lapMatrix R) x x ≤ toLinearMap₂' R (H.lapMatrix R) x x := by
+  rw [lapMatrix_toLinearMap₂' R G x, lapMatrix_toLinearMap₂' R H x]
+  refine div_le_div_of_nonneg_right ?_ (by norm_num : (0 : R) ≤ 2)
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]:
```suggestion
  refine div_le_div_of_nonneg_right ?_ zero_le_two
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 6]
```diff
@@ -279,6 +283,83 @@ noncomputable def lapMatrix_ker_basis :=
...
+
+Proof: by `lapMatrix_toLinearMap₂'_mono` and `le_top`, compare with the complete graph.
+From `lapMatrix_top`, `L(K_V) = |V| - J` where `J` is the all-ones matrix, and the
+corresponding quadratic form is `|V| ‖x‖² - (∑ x)² ≤ |V| ‖x‖²`.
+
+Uses a linearly ordered field (squares nonnegative / ordered arithmetic), the same style as
+`posSemidef_lapMatrix`. -/
+theorem dotProduct_mulVec_lapMatrix_le_card [Field R] [LinearOrder R] [IsStrictOrderedRing R]
+    (x : V → R) :
+    x ⬝ᵥ (G.lapMatrix R *ᵥ x) ≤ (Fintype.card V : R) * (x ⬝ᵥ x) := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]:
```suggestion
    (x : V → R) : x ⬝ᵥ G.lapMatrix R *ᵥ x ≤ Fintype.card V * x ⬝ᵥ x := by
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean (hunk 1 above)
Comment (hasjack) [reply Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]: extraction added to PR

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 7]
```diff
@@ -279,6 +283,83 @@ noncomputable def lapMatrix_ker_basis :=
...
+  classical
+  have hcmp := lapMatrix_toLinearMap₂'_mono (R := R) (le_top : G ≤ ⊤) x
+  have htop : toLinearMap₂' R ((⊤ : SimpleGraph V).lapMatrix R) x x ≤
+      (Fintype.card V : R) * (x ⬝ᵥ x) := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]:
```suggestion
  have htop : toLinearMap₂' R ((⊤ : SimpleGraph V).lapMatrix R) x x ≤ Fintype.card V * x ⬝ᵥ x := by
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 8]
```diff
@@ -279,6 +283,83 @@ noncomputable def lapMatrix_ker_basis :=
...
+    rw [lapMatrix_top (R := R), toLinearMap₂'_apply']
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]:
```suggestion
    rw [lapMatrix_top, toLinearMap₂'_apply']
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 9]
```diff
@@ -279,6 +283,83 @@ noncomputable def lapMatrix_ker_basis :=
...
+    rw [sub_mulVec, dotProduct_sub, natCast_mulVec, dotProduct_smul, smul_eq_mul]
+    have hJ : x ⬝ᵥ (Matrix.of (1 : V → V → R) *ᵥ x) = (∑ i, x i) ^ 2 := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]:
```suggestion
    have hJ : x ⬝ᵥ .of 1 *ᵥ x = (∑ i, x i) ^ 2 := by
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 10]
```diff
@@ -279,6 +283,83 @@ noncomputable def lapMatrix_ker_basis :=
...
+      have hmul : Matrix.of (1 : V → V → R) *ᵥ x = fun _ => ∑ j, x j := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]:
```suggestion
      have hmul : .of (1 : V → V → R) *ᵥ x = fun _ ↦ ∑ j, x j := by
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean (hunk 2 above)
Comment (hasjack) [reply Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]: Dropped `eigenvalue_lapMatrix_le_card` (the explicit `*ᵥ` eigenpair). The Rayleigh argument now lives only inside `eigenvalues_lapMatrix_le_card` via `HasEigenvalue`. The mulVec form did not generalise further, so it is gone rather than aliased.

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 11]
```diff
@@ -279,6 +283,83 @@ noncomputable def lapMatrix_ker_basis :=
...
+        ext i
+        simp [mulVec_apply_eq_sum, of_apply]
+      rw [hmul, dotProduct, ← sum_mul, ← sq]
+    rw [hJ]
+    exact sub_le_self _ (sq_nonneg _)
+  calc
+    x ⬝ᵥ (G.lapMatrix R *ᵥ x) = toLinearMap₂' R (G.lapMatrix R) x x :=
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]:
```suggestion
    x ⬝ᵥ G.lapMatrix R *ᵥ x = toLinearMap₂' R (G.lapMatrix R) x x :=
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 12]
```diff
@@ -279,6 +283,83 @@ noncomputable def lapMatrix_ker_basis :=
...
+      (toLinearMap₂'_apply' _ x x).symm
+    _ ≤ toLinearMap₂' R ((⊤ : SimpleGraph V).lapMatrix R) x x := hcmp
+    _ ≤ (Fintype.card V : R) * (x ⬝ᵥ x) := htop
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]:
```suggestion
    _ ≤ Fintype.card V * x ⬝ᵥ x := htop
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 13]
```diff
@@ -279,6 +283,83 @@ noncomputable def lapMatrix_ker_basis :=
...
+
+Proof: Rayleigh quotient via `dotProduct_mulVec_lapMatrix_le_card`. This is a uniform
+upper bound; it does not assert that `|V|` lies in the spectrum.
+
+Stated via `Module.End.HasEigenvalue` of `toLin'` rather than `IsHermitian.eigenvalues`,
+to avoid importing `Analysis.Matrix.Spectrum`. -/
+theorem eigenvalues_lapMatrix_le_card [Field R] [LinearOrder R] [IsStrictOrderedRing R]
+    {μ : R}
+    (hμ : Module.End.HasEigenvalue (toLin' (G.lapMatrix R)) μ) :
+    μ ≤ (Fintype.card V : R) := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]:
```suggestion
theorem eigenvalues_lapMatrix_le_card [Field R] [LinearOrder R] [IsStrictOrderedRing R] {μ : R}
    (hμ : End.HasEigenvalue (G.lapMatrix R).toLin' μ) : μ ≤ Fintype.card V := by
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 14]
```diff
@@ -279,6 +283,83 @@ noncomputable def lapMatrix_ker_basis :=
...
+  have h : G.lapMatrix R *ᵥ x = μ • x := by
+    simpa [toLin'_apply] using hx.apply_eq_smul
+  have hquad := dotProduct_mulVec_lapMatrix_le_card (R := R) G x
+  have hμ' : x ⬝ᵥ (G.lapMatrix R *ᵥ x) = μ * (x ⬝ᵥ x) := by
+    rw [h, dotProduct_smul, smul_eq_mul]
+  have hxpos : 0 < x ⬝ᵥ x := by
+    have hnn : 0 ≤ x ⬝ᵥ x := Fintype.sum_nonneg fun i => mul_self_nonneg (x i)
+    have hne : x ⬝ᵥ x ≠ 0 := mt dotProduct_self_eq_zero.mp hx.right
+    exact lt_of_le_of_ne hnn hne.symm
+  have : μ * (x ⬝ᵥ x) ≤ (Fintype.card V : R) * (x ⬝ᵥ x) := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]:
```suggestion
  have : μ * x ⬝ᵥ x ≤ Fintype.card V * x ⬝ᵥ x := by
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 15]
```diff
@@ -279,6 +283,83 @@ noncomputable def lapMatrix_ker_basis :=
...
+to avoid importing `Analysis.Matrix.Spectrum`. -/
+theorem eigenvalues_lapMatrix_le_card [Field R] [LinearOrder R] [IsStrictOrderedRing R]
+    {μ : R}
+    (hμ : Module.End.HasEigenvalue (toLin' (G.lapMatrix R)) μ) :
+    μ ≤ (Fintype.card V : R) := by
+  obtain ⟨x, hx⟩ := hμ.exists_hasEigenvector
+  have h : G.lapMatrix R *ᵥ x = μ • x := by
+    simpa [toLin'_apply] using hx.apply_eq_smul
+  have hquad := dotProduct_mulVec_lapMatrix_le_card (R := R) G x
+  have hμ' : x ⬝ᵥ (G.lapMatrix R *ᵥ x) = μ * (x ⬝ᵥ x) := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]:
```suggestion
  have hμ' : x ⬝ᵥ G.lapMatrix R *ᵥ x = μ * x ⬝ᵥ x := by
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean (hunk 2 above)
Comment (hasjack) [reply Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]: -awaiting-author

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 16]
```diff
@@ -279,6 +283,83 @@ noncomputable def lapMatrix_ker_basis :=
...
+Stated via `Module.End.HasEigenvalue` of `toLin'` rather than `IsHermitian.eigenvalues`,
+to avoid importing `Analysis.Matrix.Spectrum`. -/
+theorem eigenvalues_lapMatrix_le_card [Field R] [LinearOrder R] [IsStrictOrderedRing R]
+    {μ : R}
+    (hμ : Module.End.HasEigenvalue (toLin' (G.lapMatrix R)) μ) :
+    μ ≤ (Fintype.card V : R) := by
+  obtain ⟨x, hx⟩ := hμ.exists_hasEigenvector
+  have h : G.lapMatrix R *ᵥ x = μ • x := by
+    simpa [toLin'_apply] using hx.apply_eq_smul
+  have hquad := dotProduct_mulVec_lapMatrix_le_card (R := R) G x
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]:
```suggestion
  have hquad := dotProduct_mulVec_lapMatrix_le_card G x
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 17]
```diff
@@ -279,6 +283,83 @@ noncomputable def lapMatrix_ker_basis :=
...
+    rw [lapMatrix_top (R := R), toLinearMap₂'_apply']
+    rw [sub_mulVec, dotProduct_sub, natCast_mulVec, dotProduct_smul, smul_eq_mul]
+    have hJ : x ⬝ᵥ (Matrix.of (1 : V → V → R) *ᵥ x) = (∑ i, x i) ^ 2 := by
+      have hmul : Matrix.of (1 : V → V → R) *ᵥ x = fun _ => ∑ j, x j := by
+        ext i
+        simp [mulVec_apply_eq_sum, of_apply]
+      rw [hmul, dotProduct, ← sum_mul, ← sq]
+    rw [hJ]
+    exact sub_le_self _ (sq_nonneg _)
+  calc
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]: Can you try using a 1-line `grw` instead?

Comment (hasjack) [reply Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]: Switched the card-bound chain to a one-line `grw` on mono + the complete-graph estimate, and applied your style suggestions. Thanks!

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean (hunk 16 above)
Comment (hasjack) [reply Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]: Kept (R := R) G x. With only G x, Lean takes G as the type argument for R. (R := R) alone then wants G explicit before x.

**Comment by hasjack** [comment]
-awaiting-author

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean (hunk 16 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]: Yeah but why do you need the explicit argument syntax?

**Comment by SnirBroshi** [comment]
Could you please comment on LLM-use as I've asked above? Thanks!

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 18]
```diff
@@ -25,6 +25,10 @@ This module defines the Laplacian matrix of a graph, and proves some of its elem
 * `SimpleGraph.lapMatrix`: The Laplacian matrix of a simple graph, defined as the difference
   between the degree matrix and the adjacency matrix.
 * `posSemidef_lapMatrix`: The Laplacian matrix is positive semidefinite.
+* `lapMatrix_toLinearMap₂'_mono`: The Laplacian quadratic form is monotone in the graph.
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]: This doesn't strike me as a "main result"
```suggestion
```
I'm also not sure about the other ones

**Comment by hasjack** [comment]
> Could you please comment on LLM-use as I've asked above? Thanks!

I used an LLM (Grok) to check whether LapMatrix.lean already had a card bound (it did not) and to sketch the complete-graph / Rayleigh argument. I wrote and compiled the Lean in this file myself, including the ordered-field change, the G ≤ H lemma, dropping the extra eigenpair spelling, and the (R := R) G x binder fix.

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean (hunk 16 above)
Comment (hasjack) [reply Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]: `R` is an explicit section variable here (`variable (R : Type*)`), same as `G`, so the call matches the rest of the file: `dotProduct_mulVec_lapMatrix_le_card R G x` (cf. `lapMatrix_toLinearMap₂' R G x`). Bare `x` or `G x` both misbind.

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean (hunk 18 above)
Comment (hasjack) [reply Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]: ok. I dropped lapMatrix_toLinearMap₂'_mono and dotProduct_mulVec_lapMatrix_le_card from the module header. Kept only eigenvalues_lapMatrix_le_card as the main result.

**Comment by hasjack** [comment]
-awaiting-author

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 19]
```diff
@@ -279,6 +281,73 @@ noncomputable def lapMatrix_ker_basis :=
...
+  have hquad := dotProduct_mulVec_lapMatrix_le_card R G x
+  have hμ' : x ⬝ᵥ G.lapMatrix R *ᵥ x = μ * x ⬝ᵥ x := by
+    rw [h, dotProduct_smul, smul_eq_mul]
+  have hxpos : 0 < x ⬝ᵥ x := by
+    have hnn : 0 ≤ x ⬝ᵥ x := Fintype.sum_nonneg fun i => mul_self_nonneg (x i)
+    have hne : x ⬝ᵥ x ≠ 0 := mt dotProduct_self_eq_zero.mp hx.right
+    exact lt_of_le_of_ne hnn hne.symm
+  have : μ * x ⬝ᵥ x ≤ Fintype.card V * x ⬝ᵥ x := by
+    rwa [← hμ']
+  exact (mul_le_mul_iff_of_pos_right hxpos).1 this
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]: Could you try restructuring this proof using backwards reasoning instead of forwards reasoning, to avoid all the `have`s? For example, here you can `rw [← mul_le_mul_iff_of_pos_right hxpos]` first, and then the goal you're left with is your `have`, which you can then prove.
Similarly for `dotProduct_mulVec_lapMatrix_le_card`.
Lots of `have`s are common if you're following a textbook proof for example, but they're less natural when formalizing.

Comment (hasjack) [reply Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]: Done. Much cleaner - thanks!

Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]: There are still lots of `have`s; ideally every proof should have at most one `by`

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 20]
```diff
@@ -279,6 +281,73 @@ noncomputable def lapMatrix_ker_basis :=
...
+    toLinearMap₂' R (G.lapMatrix R) x x ≤ toLinearMap₂' R (H.lapMatrix R) x x := by
+  rw [lapMatrix_toLinearMap₂' R G x, lapMatrix_toLinearMap₂' R H x]
+  refine div_le_div_of_nonneg_right ?_ zero_le_two
+  refine sum_le_sum fun i _ => sum_le_sum fun j _ => ?_
+  by_cases hG : G.Adj i j
+  · simp [hG, hGH hG]
+  · simp only [hG, ↓reduceIte]
+    split_ifs with hH
+    · exact sq_nonneg _
+    · rfl
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]:
```suggestion
  simp_rw [lapMatrix_toLinearMap₂']
  refine div_le_div_of_nonneg_right (sum_le_sum fun i _ ↦ sum_le_sum fun j _ ↦ ?_) zero_le_two
  grind [sq_nonneg, le_iff_adj]
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 21]
```diff
@@ -279,6 +281,73 @@ noncomputable def lapMatrix_ker_basis :=
...
+    rw [sub_mulVec, dotProduct_sub, natCast_mulVec, dotProduct_smul, smul_eq_mul]
+    have hJ : x ⬝ᵥ .of 1 *ᵥ x = (∑ i, x i) ^ 2 := by
+      have hmul : .of (1 : V → V → R) *ᵥ x = fun _ ↦ ∑ j, x j := by
+        ext i
+        simp [mulVec_apply_eq_sum, of_apply]
+      rw [hmul, dotProduct, ← sum_mul, ← sq]
+    rw [hJ]
+    exact sub_le_self _ (sq_nonneg _)
+  rw [← toLinearMap₂'_apply']
+  grw [lapMatrix_toLinearMap₂'_mono (R := R) (le_top : G ≤ ⊤) x, htop]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]: You don't need to specify all of these
```suggestion
  grw [lapMatrix_toLinearMap₂'_mono R le_top, htop]
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 22]
```diff
@@ -279,6 +281,73 @@ noncomputable def lapMatrix_ker_basis :=
 
 end
 
+/-- The Laplacian quadratic form is monotone in the graph: if `G ≤ H`, then
+`xᵀ L(G) x ≤ xᵀ L(H) x`.
+
+This holds over any linearly ordered field (same assumptions as `posSemidef_lapMatrix`,
+minus the star data): the quadratic forms expand as a sum of squares over edges, so
+adding edges can only increase the value. -/
+theorem lapMatrix_toLinearMap₂'_mono [Field R] [LinearOrder R] [IsStrictOrderedRing R]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]:
```suggestion
theorem lapMatrix_toLinearMap₂'_mono {R} [Field R] [LinearOrder R] [IsStrictOrderedRing R]
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 23]
```diff
@@ -279,6 +281,55 @@ noncomputable def lapMatrix_ker_basis :=
 
 end
 
+/-- The Laplacian quadratic form is monotone in the graph: if `G ≤ H`, then
+`xᵀ L(G) x ≤ xᵀ L(H) x`.
+
+This holds over any linearly ordered field (same assumptions as `posSemidef_lapMatrix`,
+minus the star data): the quadratic forms expand as a sum of squares over edges, so
+adding edges can only increase the value. -/
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]:
```suggestion
/-- The Laplacian quadratic form is monotone in the graph: if `G ≤ H`, then
`xᵀ L(G) x ≤ xᵀ L(H) x`.
-/
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 24]
```diff
@@ -279,6 +281,55 @@ noncomputable def lapMatrix_ker_basis :=
...
+  grind [sq_nonneg, le_iff_adj]
+
+/-- The quadratic form of a simple-graph Laplacian is at most `|V| · ‖x‖²`.
+
+Proof: by `lapMatrix_toLinearMap₂'_mono` and `le_top`, compare with the complete graph.
+From `lapMatrix_top`, `L(K_V) = |V| - J` where `J` is the all-ones matrix, and the
+corresponding quadratic form is `|V| ‖x‖² - (∑ x)² ≤ |V| ‖x‖²`.
+
+Uses a linearly ordered field (squares nonnegative / ordered arithmetic), the same style as
+`posSemidef_lapMatrix`. -/
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]:
```suggestion
/-- The quadratic form of a simple-graph Laplacian is at most `|V| · ‖x‖²`. -/
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 25]
```diff
@@ -279,6 +281,45 @@ noncomputable def lapMatrix_ker_basis :=
...
+    dotProduct_smul, smul_eq_mul]
+  convert (sub_le_self (Fintype.card V * x ⬝ᵥ x) (sq_nonneg (∑ i, x i))) using 2
+  simp [mulVec, of_apply, dotProduct, Finset.sum_mul, sq]
+
+/-- Every eigenvalue of the Laplacian of a finite simple graph (in a linearly ordered field)
+is at most `|V|`.
+
+Proof: Rayleigh quotient via `dotProduct_mulVec_lapMatrix_le_card`. This is a uniform
+upper bound; it does not assert that `|V|` lies in the spectrum.
+
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:309]:
```suggestion
```
although Rayleigh quotient sounds interesting; are there general linear algebra lemmas you can prove about it, and then use here?

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 26]
```diff
@@ -279,6 +281,45 @@ noncomputable def lapMatrix_ker_basis :=
 
 end
 
+/-- The Laplacian quadratic form is monotone in the graph: if `G ≤ H`, then
+`xᵀ L(G) x ≤ xᵀ L(H) x`.
+-/
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]:
```suggestion
/-- The Laplacian quadratic form is monotone in the graph: if `G ≤ H`, then `xᵀ L(G) x ≤ xᵀ L(H) x`.
-/
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 27]
```diff
@@ -279,6 +281,44 @@ noncomputable def lapMatrix_ker_basis :=
...
+upper bound; it does not assert that `|V|` lies in the spectrum.
+
+Stated via `Module.End.HasEigenvalue` of `toLin'` rather than `IsHermitian.eigenvalues`,
+to avoid importing `Analysis.Matrix.Spectrum`. -/
+theorem eigenvalues_lapMatrix_le_card [Field R] [LinearOrder R] [IsStrictOrderedRing R] {μ : R}
+    (hμ : End.HasEigenvalue (G.lapMatrix R).toLin' μ) : μ ≤ Fintype.card V := by
+  obtain ⟨x, hx⟩ := hμ.exists_hasEigenvector
+  have hxpos : 0 < x ⬝ᵥ x :=
+    lt_of_le_of_ne (Fintype.sum_nonneg fun i ↦ mul_self_nonneg (x i))
+      (Ne.symm <| mt dotProduct_self_eq_zero.mp hx.right)
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]:
```suggestion
    (Fintype.sum_nonneg (mul_self_nonneg <| x ·)).lt_of_ne'
      (dotProduct_self_eq_zero.not.mpr hx.right)
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 28]
```diff
@@ -279,6 +281,44 @@ noncomputable def lapMatrix_ker_basis :=
...
+  rw [← mul_le_mul_iff_of_pos_right hxpos, ← smul_eq_mul, ← dotProduct_smul,
+    ← hx.apply_eq_smul, toLin'_apply]
+  exact dotProduct_mulVec_lapMatrix_le_card R G x
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]:
```suggestion
  grw [← mul_le_mul_iff_of_pos_right hxpos, ← smul_eq_mul, ← dotProduct_smul,
    ← hx.apply_eq_smul, toLin'_apply, dotProduct_mulVec_lapMatrix_le_card]
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 29]
```diff
@@ -279,6 +281,43 @@ noncomputable def lapMatrix_ker_basis :=
...
+/-- The quadratic form of a simple-graph Laplacian is at most `|V| · ‖x‖²`. -/
+theorem dotProduct_mulVec_lapMatrix_le_card [Field R] [LinearOrder R] [IsStrictOrderedRing R]
+    (x : V → R) : x ⬝ᵥ G.lapMatrix R *ᵥ x ≤ Fintype.card V * x ⬝ᵥ x := by
+  classical
+  rw [← toLinearMap₂'_apply']
+  grw [lapMatrix_toLinearMap₂'_mono (R := R) (le_top : G ≤ ⊤) x]
+  rw [lapMatrix_top, toLinearMap₂'_apply', sub_mulVec, dotProduct_sub, natCast_mulVec,
+    dotProduct_smul, smul_eq_mul]
+  convert (sub_le_self (Fintype.card V * x ⬝ᵥ x) (sq_nonneg (∑ i, x i))) using 2
+  simp [mulVec, of_apply, dotProduct, Finset.sum_mul, sq]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]: `convert` is a bit unpredictable, so in this case a `have` is probably better
```suggestion
  have : x ⬝ᵥ of 1 *ᵥ x = (∑ i, x i) ^ 2 := by simp [mulVec, dotProduct, Finset.sum_mul, sq]
  grw [this, sub_le_self _ <| sq_nonneg _]
```
I also think the `have` could make for a nice lemma in `Mathlib.Data.Matrix.Mul` :)

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean (hunk 25 above)
Comment (hasjack) [reply Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:309]: it’s just the comparison with the complete graph, so I left it local. Not sure it belongs in this PR?

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean (hunk 19 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]: Nice!

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean (hunk 25 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:309]: If there aren't useful lemmas to be extracted here that's okay too

**Comment by SnirBroshi** [comment]
@Parcly-Taxel Why LLM-generated? They [said](https://github.com/leanprover-community/mathlib4/pull/43953#issuecomment-5737744033)

> I wrote and compiled the Lean in this file myself

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean (hunk 21 above)
Comment (hasjack) [reply Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]: Tidied on tip: `grw [lapMatrix_toLinearMap₂'_mono le_top x]` — `R` inferred from `x`, no explicit binders. (`R le_top` alone type-mismatches here because `R` is implicit.)

Is anything else still open on your side?

Comment (hasjack) [reply Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]: Applied suggestion as a commit due to this snippet being outdated.

**Comment by hasjack** [comment]
-awaiting-author

**Comment by Parcly-Taxel** [comment]
> They [said](https://github.com/leanprover-community/mathlib4/pull/43953#issuecomment-5737744033) > I wrote and compiled the Lean in this file myself.

No – this is enough to qualify for LLM usage:
> I used an LLM (Grok) to check whether LapMatrix.lean already had a card bound (it did not) _and to sketch the complete-graph / Rayleigh argument._

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 30]
```diff
@@ -279,6 +281,43 @@ noncomputable def lapMatrix_ker_basis :=
 
 end
 
+/-- The Laplacian quadratic form is monotone in the graph: if `G ≤ H`, then `xᵀ L(G) x ≤ xᵀ L(H) x`.
+-/
```
Comment (Parcly-Taxel) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:285]: As well as that, this comment and the one below are not necessary (and look LLM-generated).
```suggestion
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 31]
```diff
@@ -279,6 +281,43 @@ noncomputable def lapMatrix_ker_basis :=
...
+theorem lapMatrix_toLinearMap₂'_mono {R} [Field R] [LinearOrder R] [IsStrictOrderedRing R]
+    {G H : SimpleGraph V} [DecidableRel G.Adj] [DecidableRel H.Adj] (hGH : G ≤ H) (x : V → R) :
+    toLinearMap₂' R (G.lapMatrix R) x x ≤ toLinearMap₂' R (H.lapMatrix R) x x := by
+  simp_rw [lapMatrix_toLinearMap₂']
+  refine div_le_div_of_nonneg_right (sum_le_sum fun i _ ↦ sum_le_sum fun j _ ↦ ?_) zero_le_two
+  grind [sq_nonneg, le_iff_adj]
+
+/-- The quadratic form of a simple-graph Laplacian is at most `|V| · ‖x‖²`. -/
```
Comment (Parcly-Taxel) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:293]:
```suggestion
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 32]
```diff
@@ -279,6 +281,42 @@ noncomputable def lapMatrix_ker_basis :=
...
+/-- The Laplacian quadratic form is monotone in the graph: if `G ≤ H`, then `xᵀ L(G) x ≤ xᵀ L(H) x`.
+-/
+theorem lapMatrix_toLinearMap₂'_mono {R} [Field R] [LinearOrder R] [IsStrictOrderedRing R]
+    {G H : SimpleGraph V} [DecidableRel G.Adj] [DecidableRel H.Adj] (hGH : G ≤ H) (x : V → R) :
+    toLinearMap₂' R (G.lapMatrix R) x x ≤ toLinearMap₂' R (H.lapMatrix R) x x := by
+  simp_rw [lapMatrix_toLinearMap₂']
+  refine div_le_div_of_nonneg_right (sum_le_sum fun i _ ↦ sum_le_sum fun j _ ↦ ?_) zero_le_two
+  grind [sq_nonneg, le_iff_adj]
+
+theorem dotProduct_mulVec_lapMatrix_le_card [Field R] [LinearOrder R] [IsStrictOrderedRing R]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:294]: Could you restore the docstring here? I think it adds useful information to the theorem statement
```suggestion
/-- The quadratic form of a simple-graph Laplacian is at most `|V| · ‖x‖²`. -/
theorem dotProduct_mulVec_lapMatrix_le_card [Field R] [LinearOrder R] [IsStrictOrderedRing R]
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 33]
```diff
@@ -279,6 +281,42 @@ noncomputable def lapMatrix_ker_basis :=
...
+    dotProduct_smul, smul_eq_mul]
+  have : x ⬝ᵥ of 1 *ᵥ x = (∑ i, x i) ^ 2 := by simp [mulVec, dotProduct, Finset.sum_mul, sq]
+  grw [this, sub_le_self _ <| sq_nonneg _]
+
+/-- Every eigenvalue of the Laplacian of a finite simple graph (in a linearly ordered field)
+is at most `|V|`.
+
+Proof: Rayleigh quotient via `dotProduct_mulVec_lapMatrix_le_card`. This is a uniform
+upper bound; it does not assert that `|V|` lies in the spectrum.
+
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]:
```suggestion
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 34]
```diff
@@ -279,6 +281,40 @@ noncomputable def lapMatrix_ker_basis :=
...
+/-- The quadratic form of a simple-graph Laplacian is at most `|V| · ‖x‖²`. -/
+theorem dotProduct_mulVec_lapMatrix_le_card [Field R] [LinearOrder R] [IsStrictOrderedRing R]
+    (x : V → R) : x ⬝ᵥ G.lapMatrix R *ᵥ x ≤ Fintype.card V * x ⬝ᵥ x := by
+  classical
+  rw [← toLinearMap₂'_apply']
+  grw [lapMatrix_toLinearMap₂'_mono le_top x]
+  rw [lapMatrix_top, toLinearMap₂'_apply', sub_mulVec, dotProduct_sub, natCast_mulVec,
+    dotProduct_smul, smul_eq_mul]
+  have : x ⬝ᵥ of 1 *ᵥ x = (∑ i, x i) ^ 2 := by simp [mulVec, dotProduct, Finset.sum_mul, sq]
+  grw [this, sub_le_self _ <| sq_nonneg _]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]:
```suggestion
  have : x ⬝ᵥ of 1 *ᵥ x = (∑ i, x i) ^ 2 := by simp [mulVec, dotProduct, Finset.sum_mul, sq]
  grw [← toLinearMap₂'_apply', lapMatrix_toLinearMap₂'_mono le_top, lapMatrix_top,
    toLinearMap₂'_apply', sub_mulVec, dotProduct_sub, natCast_mulVec, dotProduct_smul, smul_eq_mul,
    this, sub_le_self _ <| sq_nonneg _]
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 35]
```diff
@@ -279,6 +281,40 @@ noncomputable def lapMatrix_ker_basis :=
...
+
+/-- The quadratic form of a simple-graph Laplacian is at most `|V| · ‖x‖²`. -/
+theorem dotProduct_mulVec_lapMatrix_le_card [Field R] [LinearOrder R] [IsStrictOrderedRing R]
+    (x : V → R) : x ⬝ᵥ G.lapMatrix R *ᵥ x ≤ Fintype.card V * x ⬝ᵥ x := by
+  classical
+  rw [← toLinearMap₂'_apply']
+  grw [lapMatrix_toLinearMap₂'_mono le_top x]
+  rw [lapMatrix_top, toLinearMap₂'_apply', sub_mulVec, dotProduct_sub, natCast_mulVec,
+    dotProduct_smul, smul_eq_mul]
+  have : x ⬝ᵥ of 1 *ᵥ x = (∑ i, x i) ^ 2 := by simp [mulVec, dotProduct, Finset.sum_mul, sq]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]: Could you extract this to a lemma in `Mathlib.Data.Matrix.Mul`?

File: Mathlib/Data/Matrix/Mul.lean [hunk 36]
```diff
@@ -984,6 +984,10 @@ set_option backward.isDefEq.respectTransparency false in
 theorem one_vecMul [Fintype m] (A : Matrix m n α) : 1 ᵥ* A = ∑ i, A i := by
   ext; simp [vecMul, dotProduct]
 
+theorem dotProduct_mulVec_of_one [Fintype n] (x : n → α) :
```
Comment (SnirBroshi) [inline Mathlib/Data/Matrix/Mul.lean]:
```suggestion
theorem dotProduct_of_one_mulVec [Fintype n] (x : n → α) :
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean (hunk 35 above)
Comment (hasjack) [reply Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]: done in [3e5383f](https://github.com/leanprover-community/mathlib4/pull/43953/commits/3e5383f5b428929ed07ffc78e29c532866f5033b)
